US07186729B2
Step 4: 3-[(4-Chloro-benzyl)-ethylcarbamoylmethyl-amino]-pyrrolidine-1-carboxylic acid tert-butyl ester
To a solution of 3-[carboxymethyl-(4-chloro-benzyl)-amino]-pyrrolidine-1-carboxylic acid tert-butyl ester (0.48 g, 1.30 mmol) in tetrahydrofuran (10 mL) was added EDCI (0.39 g, 1.95 mmol), HOBT (0.26 g, 1.95 mmol), and stirred for 30 min., followed by the addition of N-methyl morpholine (0.43 mL, 3.90 mmol) and N-ethyl amine (0.1 mL, 1.95 mmol). The reaction mixture was stirred at room temperature for 18 h. Upon concentration, the residue was dissolved in ethyl acetate and washed with saturated aqueous sodium bicarbonate. The combined organics were washed with brine and dried over sodium sulfate. The crude product was purified on silica using gradient elution from hexane/ethyl acetate (50%) to ethyl acetate (100%).

reactant | 3-[carboxymethyl-(4-chloro-benzyl)-amino]-pyrrolidine-1-carboxylic acid tert-butyl ester | 1.30 mmol, 0.48 g | C(C)(C)(C)OC(=O)N1CC(CC1)N(CC1=CC=C(C=C1)Cl)CC(=O)O | C18H25ClN2O4
reactant | EDCI | 1.95 mmol, 0.39 g | CCN=C=NCCCN(C)C | C8H17N3
reactant | HOBT | 1.95 mmol, 0.26 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | N-methyl morpholine | 3.90 mmol, 0.43 mL | CN1CCOCC1 | C5H11NO
reactant | N-ethyl amine | 1.95 mmol, 0.1 mL | C(C)N | C2H7N
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | 3-[(4-Chloro-benzyl)-ethylcarbamoylmethyl-amino]-pyrrolidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CC(CC1)N(CC(NCC)=O)CC1=CC=C(C=C1)Cl | C20H30ClN3O3
